US07205292B2
4-(4-Chloro-2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)-N-[(3R,6S)-1-(2-methoxyethyl)-2-oxo-6-phenylazepan-3-yl]piperidine-1-carboxamide
A solution of (3R,6S)-3-amino-1-(2-methoxyethyl)-6-phenylazepan-2-one (0.015 g, 0.057 mmol) and 4-nitrophenylchloroformate (0.012 g, 0.057 mmol) in dry tetrahydrofuran (2 mL) was cooled to 0° C. under argon. Triethylamine (0.006 g, 0.057 mmol) was added and the reaction stirred for 1 h. Solid 4-chloro-1-piperidin-4-yl-1,3-dihydro-2H-benzimidazol-2-one (0.057 mmol) followed by triethylamine (0.055 g) were added. The reaction was allowed to come to room temperature and stirred for 1 h. The reaction was diluted with dicholoromethane and extracted with 1N NaOH until the yellow color of the organic layer disappeared. The organic layer was dried over sodium sulfate, concentrated and purified by normal phase chromatography (silica gel, 0 to 7% methanol in methylene chloride gradient elution), which gave the title compound (9 mg). MS 540.2370 (M+1).

reactant | (3R,6S)-3-amino-1-(2-methoxyethyl)-6-phenylazepan-2-one | 0.057 mmol, 0.015 g | N[C@H]1C(N(C[C@@H](CC1)C1=CC=CC=C1)CCOC)=O | C15H22N2O2
reactant | 4-nitrophenylchloroformate | 0.057 mmol, 0.012 g | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | Triethylamine | 0.057 mmol, 0.006 g | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-1-piperidin-4-yl-1,3-dihydro-2H-benzimidazol-2-one | 0.057 mmol | ClC1=CC=CC=2N(C(NC21)=O)C2CCNCC2 | C12H14ClN3O
reactant | triethylamine | 0.055 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 4-(4-Chloro-2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)-N-[(3R,6S)-1-(2-methoxyethyl)-2-oxo-6-phenylazepan-3-yl]piperidine-1-carboxamide | 9 mg | ClC1=CC=CC=2N(C(NC21)=O)C2CCN(CC2)C(=O)N[C@H]2C(N(C[C@@H](CC2)C2=CC=CC=C2)CCOC)=O | C28H34ClN5O4
